US04221737
1-Nitro-2-(2-propynylamino)-2-{2-[(4-hydroxymethyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene
When 2-[(4-hydroxymethyl-1H-imidazol-5-yl)methylthio]-ethylamine [prepared according to the procedure described in Belgian Pat. No. 843,840] is reacted with 1,1-bis(methylthio)-2-nitroethylene according to the procedure of Example 6, Step A, and the resultant 1-nitro-2-methylthio-2-{2-[(4-hydroxymethyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene is treated with propargylamine by the procedure of Example 6, Step B, the title compound is produced.

reactant | 2-[(4-hydroxymethyl-1H-imidazol-5-yl)methylthio]-ethylamine | OCC=1N=CNC1CSCCN | C7H13N3OS
reactant | 1,1-bis(methylthio)-2-nitroethylene | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-{2-[(4-hydroxymethyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)CO)SC | C10H16N4O3S2
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Nitro-2-(2-propynylamino)-2-{2-[(4-hydroxymethyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)CO)NCC#C | C12H17N5O3S
